US05866566
10,11-dihydro-10-phenylhydrazono-5H-dibenz[b,f]azepine-5-carboxamide
A mixture of 0.2 g (0.8 mmol) of 10,11-dihydro-10-oxo-5H-dibenz[b,f]azepine-5-carboxamide, 0.5 g (4.6 mmol) of phenylhydrazine and 0.5 g (6 mmol) of sodium acetate in a mixture of 5 mL of water, 5 mL of ethanol and 3 drops of concentrated hydrochloric acid was heated at 60° C. for thirty minutes and then allowed to cool to room temperature. The precipitate was then filtered and washed with cold water and dilute ethanol to give the desired product as yellow crystals of m.p. 220° to 220.8° C.

reactant | 10,11-dihydro-10-oxo-5H-dibenz[b,f]azepine-5-carboxamide | 0.8 mmol, 0.2 g | O=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C15H12N2O2
reactant | phenylhydrazine | 4.6 mmol, 0.5 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium acetate | 6 mmol, 0.5 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
product | 10,11-dihydro-10-phenylhydrazono-5H-dibenz[b,f]azepine-5-carboxamide | C1(=CC=CC=C1)NN=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C21H18N4O
